US05719141
j) Methyl 2(S)-amino-4(S)-methyl-6-triisopropylsilyloxyhexanoate
100 ml of 0.5N hydrochloric acid are added to a solution of 10.0 g of 3,6-dihydro-3(S)-[4-triisoproylsilyloxy-2(S)-methylbutyl]-6(R)-isopropyl-2,5-dimethoxypyrazine in 100 ml of tetrahydrofuran and the mixture is stirred at room temperature for 40 min. The reaction mixture is brought to pH 9 by addition of 1N sodium hydroxide solution and then extracted with methylene chloride. The combined organic phase is filtered through cotton wool and concentrated. The crude product is purified by FC over 900 g of silica gel with a 500:10:1 mixture of methylene chloride, methanol and 25% ammonia solution. In addition to the re-isolated starting material, this gives the title compound: Rf (methylene chloride-methanol-concentrated ammonia: (140:10:1))=0.34.

reactant | hydrochloric acid | 0.5N, 100 ml | Cl | ClH
reactant | 3,6-dihydro-3(S)-[4-triisoproylsilyloxy-2(S)-methylbutyl]-6(R)-isopropyl-2,5-dimethoxypyrazine | 10.0 g | C(C)(C)[Si](OCC[C@H](C[C@H]1C(=N[C@@H](C(=N1)OC)C(C)C)OC)C)(C(C)C)C(C)C | C23H46N2O3Si
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl 2(S)-amino-4(S)-methyl-6-triisopropylsilyloxyhexanoate | N[C@H](C(=O)OC)C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C | C17H37NO3Si
